2109-08-09 07:30:00 Physician Resident Progress Note
Chief Complaint: Productive cough, fever.
   24 Hour Events:
 MULTI LUMEN - START [**2109-8-9**] 01:00 AM
   Patient requiring BIPAP for a couple of hours. Otherwise with
   non-rebreather mask.
   Unable to place arterial line and obtain the last set of ABGs. Patient
   very hard stick
   Patient got RIJ placed in the ER yesterday.
   Required levophed support for BP when trasnfering from ER to [**Hospital Unit Name 44**].
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-9**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 125 (114 - 132) bpm
   BP: 110/47(63) {94/43(55) - 118/60(65)} mmHg
   RR: 21 (18 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  5,407 mL
   PO:
   TF:
   IVF:
                                                                    407 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,200 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,207 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,884 (1,884 - 1,884) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.37/42/96.[**Numeric Identifier 244**]/24/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General: Pt on respiratory distress, using accessory muscles,
   tachypneic, on BIPAP
   HEENT: PEERLA, dry conjunctivae, no jaundice, normal eye movements
   Neck: no bruits, no stridor, no lymph nodes
   Lungs: bibasilary crackles, bronchial sounds in inter-escapulare area
   Heart: RRR, no m/r/g
   Abdomen: soft, non-tender, non-distended, normal bowel movements
   Extremities: No edema, normal pulses, warm
   Skin: no skin rashes
   Neurologic: intact, normal strength, A&Ox3, normal ROTs
   Labs / Radiology
   240 K/uL
   12.9 g/dL
   94 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   106 mEq/L
   139 mEq/L
   37.0 %
   16.9 K/uL
        [image002.jpg]
                             [**2109-8-9**]  03:58 AM
                             [**2109-8-9**]  03:59 AM
   WBC
   16.9
   Hct
   37.0
   Plt
   240
   Cr
   0.6
   TCO2
   25
   Glucose
   94
   Other labs: PT / PTT / INR:16.1/33.9/1.4, Alk Phos / T Bili:/0.7,
   Differential-Neuts:78.3 %, Lymph:11.7 %, Mono:7.1 %, Eos:2.8 %,
   Fibrinogen:683 mg/dL, Lactic Acid:0.8 mmol/L, LDH:169 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates,
   # Respiratory failure
 Patient with bilateral patchy infiltrates in
   CXR, spiking a temp today, low BP requiring pressors with history of
   travel to [**Country 5083**].  Less than 2 days of antibiotics.
   - broad spectru antibx - vanc, ceftriaxone, and azithro
   - f/u urine legionella and mycoplasma serolgies sent in ED
   - sputum culture
   - ABG
   -intubate today
   - consider atypical causes of PNA including CMV, Chlamydia, EBV, HSV
   - f/u HIV results
   - TB in differential though less likely given diffuse infiltrate and no
   hempotysis
   - consider ID consult if not improving and/or switching coverage to
   vanc/zosyn/doxycycline
   # Sepsis
  Patient with increased pressor requirements in the setting;
   now awaiting isolation of  bacteria for formal septic shock.
   - Central venous line - RIJ
   - IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr
   - Broad spectrum antiobiotics - vanc, azithro, ceftriaxone
   - Follow-up blood and sputum cultures
   - Trend WBC count fever curve.
   - am lactate
   - f/u blood cx from OSH
   .
   Hematocrit drop - HCT 46.6 at OSH, 36 in ED.  Could be dilutional given
   copious fluids and decreased po intake for last few days, however,
   cannot rule out hemolysis or DIC
   - repeat HCT
   - hemolysis labs
   - DIC labs
   .
   Hypotension patient requiring levophed for now. We will start
   resusitation.
   - cont IVFs
   - monitor CVP
   - continue broad spectrum antibx
   .
   # FEN: NPO for now.
   .
   # Access:  RIJ, 2 peripherals
   .
   # PPx:  heparin sc
   .
   # Code:  Full Code
   .
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   22 Gauge - [**2109-8-9**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-10 08:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2109-8-9**] 01:28 PM
 BRONCHOSCOPY - At [**2109-8-9**] 01:28 PM
 ARTERIAL LINE - STOP [**2109-8-10**] 12:16 AM
 FEVER - 103.4
F - [**2109-8-9**] 02:00 PM
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2109-8-9**] 06:44 PM
   Ceftriaxone - [**2109-8-9**] 08:00 PM
   Gentamicin - [**2109-8-10**] 04:00 AM
   Vancomycin - [**2109-8-10**] 07:45 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-9**] 09:32 PM
   chlorhexadine
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient is intubated
   Flowsheet Data as of  [**2109-8-10**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 37.6
C (99.7
   HR: 109 (97 - 132) bpm
   BP: 122/56(70) {82/33(47) - 131/90(96)} mmHg
   RR: 28 (7 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 12 (6 - 18)mmHg
   Total In:
                                                                 11,063 mL
                                                                  3,987 mL
   PO:
                                                                    150 mL
                                                                     50 mL
   TF:
                                                                     80 mL
                                                                    286 mL
   IVF:
                                                                  5,833 mL
                                                                  3,652 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    570 mL
   Urine:
                                                                  1,805 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,658 mL
                                                                  3,417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.32/44/54/19/-3
   Ve: 12.1 L/min
   PaO2 / FiO2: 68
   Physical Examination
   General
 intubated, sedated, appears comfortable
   Cards- RRR, nl s1/s2, no murmurs appreciated
   Pulm
 anterior auscultation only, decreased breath sounds at the
   bases, rhonchi bilaterally R > L
   Abdomen
 hypoactive bowel sounds, soft, non-tender, non-distended
   Extremities
 1+ radial pulses, warm and well perfused, no edema noted
   Lines
 RIJ clean, dry, intact; NG tube in place, trach in place
   Labs / Radiology
   206 K/uL
   10.3 g/dL
   84 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.6 mEq/L
   6 mg/dL
   109 mEq/L
   138 mEq/L
   30.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2109-8-9**]  03:58 AM
                             [**2109-8-9**]  03:59 AM
                             [**2109-8-9**]  09:44 AM
                             [**2109-8-9**]  06:20 PM
                             [**2109-8-9**]  11:28 PM
                             [**2109-8-10**]  03:47 AM
                             [**2109-8-10**]  08:04 AM
   WBC
   16.9
   11.7
   Hct
   37.0
   30.2
   Plt
   240
   206
   Cr
   0.6
   0.5
   TCO2
   25
   28
   23
   25
   24
   Glucose
   94
   84
   Other labs: PT / PTT / INR:18.2/35.9/1.7, Alk Phos / T Bili:/0.7,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:10.0 %, Mono:8.0 %,
   Eos:2.0 %, Fibrinogen:683 mg/dL, Lactic Acid:0.8 mmol/L, LDH:167 IU/L,
   Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure
bilateral patchy infiltrates in CXR suggestive
   of pnueumonia now likely with ARDs now requiring increasing FiO2 and
   PEEP overnight for adequate oxygenation.
   - want to avoid volume trauma but also recruit as many small alveoli as
   possible
to optimize management up to this point have used strategies
   of low tidal volume, high PEEP strategy, however has now been requiring
   higher levels of PEEP
   - plan to drop balloon down esophagus to measure pressure today and
   then optimize PEEP based on this
   - sat goal 88-90%, PaO2 goal > 55
   - [**Male First Name (un) **]
t need to paralyze right now as not overbreathing the ventilator,
   consider paralysis if changes
   - patient on broad spectru antibiotic coverage as per ID
 gentamicin,
   levofloxacin, vanco, ceftriaxone
   - urine legionella negative, mycoplasma serolgies pending
   - sputum culture with 3+ small gram negative coccibacillus
   - intubated yesterday electively
   - HIV negative
   - ruling patient out for TB right now
   - follow up ID recs
   # Sepsis
  now evidence of ARDs as above.
   - better urine output overnight, lactate acid 0.7 so no evidence of end
   organ ischemia which is reassuring
   - will consider starting pressors if lactate rise or if urine output
   drops (use levo or neo if need to start pressors)
   - cortisol 23.6 yesterday, so may use hydrocortisone IV for dropping
   pressure
   - consider activated protein C administration today
 will follow-up
   whether patient is appropriate candidiate
   - Central venous line
 RIJ, working well
   - a-line attempted bilaterally yesterday, worked okay for a little
   while but then tracing was poor
   - if needs a-line will have to have femoral line
   - IV fluids to goal CVP 8-12, Transfuse for Hct > 30
   - Broad spectrum antiobiotics as above
   - blood cultures no growth to date, will continue to follow
   - Trend WBC count fever curve.
   - f/u blood cx from OSH (see ID note)
 no growth to date
   .
   Hematocrit drop - HCT 46.6 at OSH, 36 in ED, now 30.  likely dilutional
   in the context of copious fluids and decreased po intake for last few
   days, however, cannot rule out hemolysis or DIC
   - check hemolysis labs, DIC labs
   ..
   # FEN: started on tube feeds last night, replete lytes as needed
   .
   # Access:  RIJ, 2 peripherals
   .
   # PPx:  heparin sc, colace, senna
 will need aggressive bowel regimen
   .
   # Code:  Full Code
   .
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-9**] 08:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   22 Gauge - [**2109-8-9**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-11 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2109-8-10**] 12:27 PM for fever 102.8
 ARTERIAL LINE - START [**2109-8-11**] 02:45 AM
 BLOOD CULTURED - At [**2109-8-11**] 03:05 AM
 FEVER - 102.8
F - [**2109-8-10**] 02:00 PM for fever 101.9
   -
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2109-8-10**] 06:09 PM
   Gentamicin - [**2109-8-10**] 07:21 PM
   Vancomycin - [**2109-8-10**] 08:00 PM
   Ceftriaxone - [**2109-8-10**] 08:22 PM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-10**] 09:48 PM
   Furosemide (Lasix) - [**2109-8-11**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-11**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.6
C (97.9
   HR: 123 (96 - 123) bpm
   BP: 118/55(73) {118/55(73) - 150/70(92)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 17 (11 - 75)mmHg
   Total In:
                                                                  6,980 mL
                                                                  3,399 mL
   PO:
                                                                    150 mL
   TF:
                                                                  1,015 mL
                                                                    493 mL
   IVF:
                                                                  5,815 mL
                                                                  2,906 mL
   Blood products:
   Total out:
                                                                  1,158 mL
                                                                  1,370 mL
   Urine:
                                                                  1,158 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,822 mL
                                                                  2,029 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 22 cmH2O
   PS : 0 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 100%
   RSBI Deferred: Neuromusc Block
   PIP: 44 cmH2O
   Plateau: 36 cmH2O
   SpO2: 90%
   ABG: 7.38/39/72/20/-1
   Ve: 12.8 L/min
   PaO2 / FiO2: 72
   Physical Examination
   HEENT: NCAT MMM
   CV: RRR S1S2 no m/r/g
   PULM: crackles throughout with rhonchi at mid lung fields likely d/t MV
   ABD: soft nontender nondistended hypoactive BS
   EXT: 1+ peripheral edema, no cyanosis, no rashes 2+dp pulses
   NEURO: sedated, paralyzed
   Labs / Radiology
   237 K/uL
   12.4 g/dL
   95 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.9 mEq/L
   9 mg/dL
   110 mEq/L
   137 mEq/L
   36.7 %
   16.1 K/uL
        [image002.jpg]
                             [**2109-8-9**]  06:20 PM
                             [**2109-8-9**]  11:28 PM
                             [**2109-8-10**]  03:47 AM
                             [**2109-8-10**]  08:04 AM
                             [**2109-8-10**]  03:15 PM
                             [**2109-8-11**]  01:35 AM
                             [**2109-8-11**]  02:47 AM
                             [**2109-8-11**]  03:02 AM
                             [**2109-8-11**]  04:03 AM
                             [**2109-8-11**]  05:37 AM
   WBC
   11.7
   14.9
   16.1
   Hct
   30.2
   33.9
   36.7
   Plt
   [**Telephone/Fax (3) 5179**]
   Cr
   0.5
   0.6
   0.5
   TCO2
   23
   25
   24
   22
   20
   23
   24
   Glucose
   84
   90
   95
   Other labs: PT / PTT / INR:17.5/33.5/1.6, CK / CKMB / Troponin-T:459//,
   ALT / AST:13/23, Alk Phos / T Bili:57/0.5, Differential-Neuts:80.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:8.0 %, Eos:2.0 %, Fibrinogen:796 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:264 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Mechanical ventilation
With increasing FiO2 and PEEP overnight
   concern for barotrauma. Multiple recruitment maneuvers attempted
   however benefits were short lived. Diuresis with 10mg IV lasix had good
   reponse with increase UOP however oxygen saturations did not improve
   significantly as expected. Bronchodilator/nebulizers also had no
   effect. Esophageal balloon manometry shows there is room to move up on
   PEEP.  Saturation goal will remain 88-90%, PaO2 goal > 55
   -maintain PEEP of 22 for now until bronchoscopy in the AM will send off
   for cytology and infectious exams.
   -hold tube feeds for now pending bronchoscopy
   -if tolerates can attempt to come down on PEEP and monitor PaO2
   -if patient decompensates, continue levophed, attempt pronation, NO
   # ARDS
 CXR last night during hypoxemia on vent showed worsening
   bilateral patchy infiltrates. With increasing requirements of FIO2 and
   PEEP the decision was made to paralyze and decrease oxygen demand. The
   patient
s ABGs show improvement in oxygenation and metabolic acidosis.
   Lactate of 1.0 is reassuring in setting of low urine output. Arterial
   line was placed showing BP 130s/80s. Patient is currently on levophed
   for hypotension this AM. Will follow-up BAL and send for cytology and
   infection work-up, which may yield more information than previous
   bronch and sputum culture. In setting of sepsis, will also check
   cortisoll, ACE and lactate [**Hospital1 **]. In light of the unclear etiology of
   this process, would also consider a work-up of rheumatological
   processes that could predispose to severe pulmonary infections (ie.
   Sarcoid). Will continue to seek consult from infectious disease and
   appreciate recommendations. Also, patient does not meet APACHE II
   criteria for APC.
   - check cortisol, ACE, lactate [**Hospital1 **]
   -consider d/c vancomycin per ID recommendations as low likelihood of
   staph infection
   -f/u BAL for cultures
   -add caspofungin for fungal coverage
   -if hypotension continues consider hydrocortisone, also steroids would
   cover for PCP
   [**Name Initial (PRE) **] get RF, [**Doctor First Name 1205**], ANCA
   - IV fluids to goal CVP 8-12, Transfuse for Hct > 30
   - blood cultures no growth to date, will continue to follow
   - Trend WBC count fever curve.
   - f/u blood cx from OSH (see ID note)
 no growth to date
   .
   Hematocrit drop - HCT 46.6 at OSH, 36 in ED, now 30.  likely dilutional
   in the context of copious fluids and decreased po intake for last few
   days. Follow hemolysis labs daily.
   -          check hemolysis labs, DIC labs
   -          guaiac stools
   # Coagulopathy: Patient noted to have elevated coagulation factors, low
   albumin. Consider liver abnormality, even in setting of low LFTs.
   -consider RUQ US
   -vitamin K x 1 dose
   ..
   # FEN: IV fluids as needed with caution not to fluid overload the
   lungs, replete lytes as needed, TF started
   .
   # Access:  RIJ, 2 peripherals
   .
   # PPx:  heparin sc, colace, senna, lactulose. Would start IV PPI if TF
   need to be held for pronation/procedure.
   .
   # Code:  Full Code
   .
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-10**] 10:25 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   22 Gauge - [**2109-8-9**] 02:39 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-12 07:07:00 Physician Resident Progress Note
Chief Complaint: Fever, chills, cough.
   24 Hour Events:
 FEVER - 101.9
F - [**2109-8-11**] 08:00 AM
   Got vitamin K
   Lactate 7 PM 1.4
   Patient switched to prone position and O2 requireiements improved.
   Originally started on salumedrol for low cortisol; then pt was bronqued
   and high eosinophils so steroids were increased to high dose.
   Discussed with ID, and they recommended give amphotericin instead of
   capso due to the only exposure he may have got was histoplasma. ID
   fellow recommended stopping vancomycin and recommended doing O&P in BAL
   to r/o parasitic infection.
   If pt supine goal O2sat 88-90; can increase PEEP.
   Vitamin K for high INR.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-11**] 08:00 AM
   Caspofungin - [**2109-8-11**] 11:43 AM
   Ambisome - [**2109-8-11**] 04:00 PM
   Levofloxacin - [**2109-8-11**] 06:00 PM
   Ceftriaxone - [**2109-8-11**] 07:20 PM
   Gentamicin - [**2109-8-11**] 08:56 PM
   Infusions:
   Midazolam (Versed) - 20 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-11**] 10:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.1
C (97
   HR: 94 (72 - 119) bpm
   BP: 95/57(70) {81/48(64) - 154/86(106)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 13 (11 - 16)mmHg
   Total In:
                                                                  8,274 mL
                                                                  1,251 mL
   PO:
   TF:
                                                                  2,077 mL
                                                                    572 mL
   IVF:
                                                                  6,197 mL
                                                                    679 mL
   Blood products:
   Total out:
                                                                  3,203 mL
                                                                  1,420 mL
   Urine:
                                                                  3,203 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,071 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 93%
   ABG: 7.46/37/181/22/3
   Ve: 9.9 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   11.6 g/dL
   164 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   10 mg/dL
   106 mEq/L
   138 mEq/L
   33.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2109-8-11**]  05:37 AM
                             [**2109-8-11**]  08:32 AM
                             [**2109-8-11**]  03:01 PM
                             [**2109-8-11**]  08:25 PM
                             [**2109-8-11**]  10:31 PM
                             [**2109-8-12**]  01:23 AM
                             [**2109-8-12**]  02:37 AM
                             [**2109-8-12**]  03:38 AM
                             [**2109-8-12**]  03:45 AM
                             [**2109-8-12**]  05:05 AM
   WBC
   9.5
   Hct
   33.0
   Plt
   282
   Cr
   0.6
   TCO2
   24
   24
   23
   24
   23
   24
   26
   25
   27
   Glucose
   164
   Other labs: PT / PTT / INR:18.0/26.6/1.6, CK / CKMB / Troponin-T:459//,
   ALT / AST:23/39, Alk Phos / T Bili:99/0.7, Amylase / Lipase:35/26,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL,
   LDH:223 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Mechanical ventilation
With increasing FiO2 and PEEP overnight
   concern for barotrauma. Multiple recruitment maneuvers attempted
   however benefits were short lived. Diuresis with 10mg IV lasix had good
   reponse with increase UOP however oxygen saturations did not improve
   significantly as expected. Bronchodilator/nebulizers also had no
   effect. Esophageal balloon manometry shows there is room to move up on
   PEEP.  Saturation goal will remain 88-90%, PaO2 goal > 55
   -maintain PEEP of 22 for now until bronchoscopy in the AM will send off
   for cytology and infectious exams.
   -hold tube feeds for now pending bronchoscopy
   -if tolerates can attempt to come down on PEEP and monitor PaO2
   -if patient decompensates, continue levophed, attempt pronation, NO
   # ARDS
 CXR last night during hypoxemia on vent showed worsening
   bilateral patchy infiltrates. With increasing requirements of FIO2 and
   PEEP the decision was made to paralyze and decrease oxygen demand. The
   patient
s ABGs show improvement in oxygenation and metabolic acidosis.
   Lactate of 1.0 is reassuring in setting of low urine output. Arterial
   line was placed showing BP 130s/80s. Patient is currently on levophed
   for hypotension this AM. Will follow-up BAL and send for cytology and
   infection work-up, which may yield more information than previous
   bronch and sputum culture. In setting of sepsis, will also check
   cortisoll, ACE and lactate [**Hospital1 **]. In light of the unclear etiology of
   this process, would also consider a work-up of rheumatological
   processes that could predispose to severe pulmonary infections (ie.
   Sarcoid). Will continue to seek consult from infectious disease and
   appreciate recommendations. Also, patient does not meet APACHE II
   criteria for APC.
   - check cortisol, ACE, lactate [**Hospital1 **]
   -consider d/c vancomycin per ID recommendations as low likelihood of
   staph infection
   -f/u BAL for cultures
   -add caspofungin for fungal coverage
   -if hypotension continues consider hydrocortisone, also steroids would
   cover for PCP
   [**Name Initial (PRE) **] get RF, [**Doctor First Name 1205**], ANCA
   - IV fluids to goal CVP 8-12, Transfuse for Hct > 30
   - blood cultures no growth to date, will continue to follow
   - Trend WBC count fever curve.
   - f/u blood cx from OSH (see ID note)
 no growth to date
   .
   Hematocrit drop - HCT 46.6 at OSH, 36 in ED, now 30.  likely dilutional
   in the context of copious fluids and decreased po intake for last few
   days. Follow hemolysis labs daily.
   -          check hemolysis labs, DIC labs
   -          guaiac stools
   # Coagulopathy: Patient noted to have elevated coagulation factors, low
   albumin. Consider liver abnormality, even in setting of low LFTs.
   -consider RUQ US
   -vitamin K x 1 dose
   ..
   # FEN: IV fluids as needed with caution not to fluid overload the
   lungs, replete lytes as needed, TF started
   .
   # Access:  RIJ, 2 peripherals
   .
   # PPx:  heparin sc, colace, senna, lactulose. Would start IV PPI if TF
   need to be held for pronation/procedure.
   .
   # Code:  Full Code
   .
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-12**] 07:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   22 Gauge - [**2109-8-9**] 02:39 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-12 09:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   18 year old male
   Overnight, continues to have improved oxygenation
   24 Hour Events:
 FEVER - 101.9
F - [**2109-8-11**] 08:00 AM
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-11**] 08:00 AM
   Caspofungin - [**2109-8-11**] 11:43 AM
   Ambisome - [**2109-8-11**] 04:00 PM
   Levofloxacin - [**2109-8-11**] 06:00 PM
   Ceftriaxone - [**2109-8-11**] 07:20 PM
   Gentamicin - [**2109-8-11**] 08:56 PM
   Infusions:
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-11**] 10:24 PM
   Other medications:
   Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable (paralyzed)
   Flowsheet Data as of  [**2109-8-12**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.1
C (97
   HR: 94 (72 - 107) bpm
   BP: 95/57(70) {81/54(64) - 154/86(106)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 13 (11 - 13)mmHg
   Total In:
                                                                  8,274 mL
                                                                  1,389 mL
   PO:
   TF:
                                                                  2,077 mL
                                                                    589 mL
   IVF:
                                                                  6,197 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  3,203 mL
                                                                  1,420 mL
   Urine:
                                                                  3,203 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,071 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 93%
   ABG: 7.46/37/181/22/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Gen: Intubated, paralyzed
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Skin:  warm
   Neurologic: unresponsive
   Labs / Radiology
   11.6 g/dL
   282 K/uL
   164 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   10 mg/dL
   106 mEq/L
   138 mEq/L
   33.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2109-8-11**]  05:37 AM
                             [**2109-8-11**]  08:32 AM
                             [**2109-8-11**]  03:01 PM
                             [**2109-8-11**]  08:25 PM
                             [**2109-8-11**]  10:31 PM
                             [**2109-8-12**]  01:23 AM
                             [**2109-8-12**]  02:37 AM
                             [**2109-8-12**]  03:38 AM
                             [**2109-8-12**]  03:45 AM
                             [**2109-8-12**]  05:05 AM
   WBC
   9.5
   Hct
   33.0
   Plt
   282
   Cr
   0.6
   TCO2
   24
   24
   23
   24
   23
   24
   26
   25
   27
   Glucose
   164
   Other labs: PT / PTT / INR:18.0/26.6/1.6, CK / CKMB / Troponin-T:459//,
   ALT / AST:23/39, Alk Phos / T Bili:99/0.7, Amylase / Lipase:35/26,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL,
   LDH:223 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   1)Acute Respiratory Failure:  Bronchoscopy yesterday revealed
   eosinophils and thus acute eosinophilic pneumonia is high on the
   differential
 receiving steroids and improving.  Other considerations
   such as histoplasmosis and parasites could cause eosinophilia and
   respiratory failure.  In addition, since the initial bronchoscopy
   revealed only 8% of eosinophils, it is possible that this new finding
   is just reflective of allergy to one of the many medications given to
   the patient.  Thus, will continue work-up for other causes including
   Goodpasture, Wegner and all infectious possibilities.  I consider AEP
   to be the most likely diagnosis at this time and will continue to treat
   with solumedrol.
   2) Shock: currently blood pressure is improving
   3) Anemia:
   4) Adrenal Insufficiency: re-check cortisol levels from days preceding
   level of 3.5
   5) Coagulopathy: stable
   6) FEN: Tube feeds
 advance slowly as taking down the paralysis
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-12**] 07:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   22 Gauge - [**2109-8-9**] 02:39 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes (patient is critcally ill)

2109-08-13 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-8-12**] 09:00 AM:
   Limited study. LV systolic fxn is normal (EF>55%). RV cavity is dilated
   with normal free wall contractility. Trivial pericardial effusion.
   Compared with prior study similar findings.
   -Dobhoff in stomach not past pyloric sphincter. [**Month (only) 60**] be an issue if pt
   needs to be proned.
   -Patient off paralytics, on large doses of sedation.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-11**] 08:00 AM
   Caspofungin - [**2109-8-11**] 11:43 AM
   Ambisome - [**2109-8-12**] 03:46 PM
   Levofloxacin - [**2109-8-12**] 05:34 PM
   Gentamicin - [**2109-8-12**] 07:20 PM
   Ceftriaxone - [**2109-8-12**] 08:17 PM
   Infusions:
   Midazolam (Versed) - 26 mg/hour
   Fentanyl (Concentrate) - 600 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-12**] 10:00 AM
   Furosemide (Lasix) - [**2109-8-12**] 06:09 PM
   Heparin Sodium (Prophylaxis) - [**2109-8-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-13**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 82 (79 - 116) bpm
   BP: 110/61(77) {91/52(65) - 110/63(77)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 14 (11 - 17)mmHg
   Total In:
                                                                  3,369 mL
                                                                  1,126 mL
   PO:
   TF:
                                                                    972 mL
                                                                    748 mL
   IVF:
                                                                  2,287 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  5,420 mL
                                                                  1,120 mL
   Urine:
                                                                  5,420 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,051 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 92%
   ABG: 7.42/45/99.[**Numeric Identifier 253**]/27/3
   Ve: 8.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   HEENT: NCAT MMM anicteric no petechiae
   CV: RRR S1S2 no murmurs appreciated
   PULM: good air movement w/scant coarse breath sounds, crackles at bases
   ABD: soft nondistended hypoactive bs
   EXT: WWP, 1+ edema at periphery which is stable
   NEURO: not responsive to voice, tactile stimulus
   Labs / Radiology
   316 K/uL
   10.3 g/dL
   168 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   19 mg/dL
   107 mEq/L
   143 mEq/L
   29.8 %
   18.5 K/uL
        [image002.jpg]
   85 PMN   9 Lymph  6 Mono
                             [**2109-8-12**]  03:45 AM
                             [**2109-8-12**]  05:05 AM
                             [**2109-8-12**]  10:53 AM
                             [**2109-8-12**]  12:00 PM
                             [**2109-8-12**]  03:47 PM
                             [**2109-8-12**]  04:01 PM
                             [**2109-8-12**]  06:33 PM
                             [**2109-8-12**]  09:34 PM
                             [**2109-8-12**]  10:29 PM
                             [**2109-8-13**]  03:46 AM
   WBC
   13.5
   18.5
   Hct
   29.5
   29.8
   Plt
   262
   316
   Cr
   0.5
   0.7
   TCO2
   25
   27
   27
   28
   29
   30
   30
   30
   Glucose
   163
   168
   Other labs: PT / PTT / INR:18.0/26.6/1.6, CK / CKMB / Troponin-T:459//,
   ALT / AST:23/39, Alk Phos / T Bili:99/0.7, Amylase / Lipase:35/26,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.9 mg/dL
   Fibrinogen 796
   LDH 307
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure: Etiology still unclrear, but acute eosinophilic
   pneumonia vs. drug pneumonities, vasculitis or Loefler syndrome.
   Patient on steroids for AEP and antibiotics (ceftriaxone, levofloxacin,
   gentamycin, amphotericin). Oxygen requirements have improved since
   patient was proned, and is now off paralytics, on sedation. Also high
   on the differential at this point, given ? Freidrich-Waterhouse
   syndrome and low cortisol levels, are Neisseria, fungal infection. In
   terms of autoimmune etiology thus far ANCA, [**Doctor First Name 1205**] and RF are negative.
   Pending labs include ACE, anti-GBM, Chlamydia, leptospira, mycoplasma,
   HIV viral load.
   -          decrease PEEP as tolerated
   -          f/u cultures and pending labs, f/u with OSH cultures
   -          Continue antibiotics including ampho for now.
   -          Continue steroids
   # Adrenal insufficienty: likely [**1-5**] adrenal infarct. Continue steroids
   as ordered and monitor for any petechial rashes, CNS involvement.
   -methylprednisolone
   - follow lactate
   .
   # Hematocrit drop - HCT 46.6 at OSH, 36 in ED, now 33. Most likely
   dilutional in the setting of negative hemolysis/DIC labs x2.
   -          guaiac stools
   -          f/u HCT
   -          check UA, hemolysis labs
   -          if continues would transfuse hct <25
   # Coagulopathy: Patient noted to have elevated coagulation factors, low
   albumin. Consider liver abnormality, even in setting of low LFTs. If
   coagulopathy, albumin does not resolve consider US RUQ.
   -vitamin K x 1 dose (yesterday)
   -F/u INR
   ..
   # FEN: IV fluids as needed with caution not to fluid overload the
   lungs, replete lytes as needed, TF started
   .
   # Access:  RIJ, 2 peripherals  art line
   .
   # PPx:  heparin sc, colace, senna, lactulose. Would start IV PPI if TF
   need to be held for pronation/procedure.
   .
   # Code:  Full Code
   .
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-13**] 03:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-13 11:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did ok overnight - decreased Fio2 and otherwise remained stable...off
   paralytics... requiring high levels of sedation
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-8-12**] 09:00 AM
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-11**] 08:00 AM
   Caspofungin - [**2109-8-11**] 11:43 AM
   Ambisome - [**2109-8-12**] 03:46 PM
   Levofloxacin - [**2109-8-12**] 05:34 PM
   Gentamicin - [**2109-8-12**] 07:20 PM
   Ceftriaxone - [**2109-8-12**] 08:17 PM
   Infusions:
   Midazolam (Versed) - 28 mg/hour
   Fentanyl (Concentrate) - 625 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-8-12**] 06:09 PM
   Heparin Sodium (Prophylaxis) - [**2109-8-13**] 08:11 AM
   Pantoprazole (Protonix) - [**2109-8-13**] 10:00 AM
   Midazolam (Versed) - [**2109-8-13**] 10:00 AM
   Fentanyl - [**2109-8-13**] 10:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable/no change
   Flowsheet Data as of  [**2109-8-13**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 121 (80 - 121) bpm
   BP: 114/69(84) {91/52(65) - 114/69(84)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
   CVP: 15 (13 - 17)mmHg
   Total In:
                                                                  3,369 mL
                                                                  1,615 mL
   PO:
   TF:
                                                                    972 mL
                                                                    951 mL
   IVF:
                                                                  2,287 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  5,420 mL
                                                                  1,760 mL
   Urine:
                                                                  5,420 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,051 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   SpO2: 92%
   ABG: 7.42/45/99.[**Numeric Identifier 253**]/27/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: intubated/sedated
   HEENT: NC, AT
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric) Clear to auscultation
   Skin:  warm, dry
   Neurologic: intubated and sedated
   Labs / Radiology
   10.3 g/dL
   316 K/uL
   168 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   19 mg/dL
   107 mEq/L
   143 mEq/L
   29.8 %
   18.5 K/uL
        [image002.jpg]
                             [**2109-8-12**]  03:45 AM
                             [**2109-8-12**]  05:05 AM
                             [**2109-8-12**]  10:53 AM
                             [**2109-8-12**]  12:00 PM
                             [**2109-8-12**]  03:47 PM
                             [**2109-8-12**]  04:01 PM
                             [**2109-8-12**]  06:33 PM
                             [**2109-8-12**]  09:34 PM
                             [**2109-8-12**]  10:29 PM
                             [**2109-8-13**]  03:46 AM
   WBC
   13.5
   18.5
   Hct
   29.5
   29.8
   Plt
   262
   316
   Cr
   0.5
   0.7
   TCO2
   25
   27
   27
   28
   29
   30
   30
   30
   Glucose
   163
   168
   Other labs: PT / PTT / INR:18.0/26.6/1.6, CK / CKMB / Troponin-T:459//,
   ALT / AST:23/39, Alk Phos / T Bili:99/0.7, Amylase / Lipase:35/26,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure: (see yesterday note for full discussion
   of differential).  In addition, now it appears that patient has adrenal
   injury which may have led to the bronchial eosinophilia.
   Plan:
   - Decrease PEEP slowly as tolerated
   - Continue broad-spectrum antibiotics
   2) Pneumonia:
   - continue antibiotics for bacteria, fungal
   3) Hypotension: may have been related to adrenal insufficiency
   - resolved
   4) Adrenal Insufficiency: I suspect adrenal hemorrhage or infarction
   5) Anemia
   - guiac stools
   6) Coagulopathy: vitamin K
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-13**] 03:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2109-08-14 07:02:00 Physician Resident Progress Note
Chief Complaint: Fever, SOB, cough
   24 Hour Events:
   -Did well on AC today w/PEEPs decreasing to 16, continue to wean as
   tolerated
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-11**] 08:00 AM
   Caspofungin - [**2109-8-11**] 11:43 AM
   Ambisome - [**2109-8-13**] 03:59 PM
   Levofloxacin - [**2109-8-13**] 06:00 PM
   Ceftriaxone - [**2109-8-13**] 07:44 PM
   Gentamicin - [**2109-8-13**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 30 mg/hour
   Fentanyl (Concentrate) - 625 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-13**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-8-13**] 10:00 PM
   Haloperidol (Haldol) - [**2109-8-14**] 03:09 AM
   Fentanyl - [**2109-8-14**] 06:09 AM
   Midazolam (Versed) - [**2109-8-14**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 71 (71 - 121) bpm
   BP: 117/62(80) {97/56(70) - 131/73(93)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 16 (9 - 17)mmHg
   Total In:
                                                                  3,811 mL
                                                                    961 mL
   PO:
   TF:
                                                                  1,733 mL
                                                                    506 mL
   IVF:
                                                                  1,908 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,500 mL
   Urine:
                                                                  4,310 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.42/48/111/28/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   338 K/uL
   10.7 g/dL
   175 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   25 mg/dL
   111 mEq/L
   147 mEq/L
   31.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2109-8-12**]  04:01 PM
                             [**2109-8-12**]  06:33 PM
                             [**2109-8-12**]  09:34 PM
                             [**2109-8-12**]  10:29 PM
                             [**2109-8-13**]  03:46 AM
                             [**2109-8-13**]  12:58 PM
                             [**2109-8-13**]  06:39 PM
                             [**2109-8-14**]  03:28 AM
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
   WBC
   18.5
   16.2
   Hct
   29.8
   31.9
   Plt
   316
   338
   Cr
   0.7
   0.7
   TCO2
   29
   30
   30
   30
   31
   31
   33
   32
   Glucose
   168
   175
   Other labs: PT / PTT / INR:15.7/26.9/1.4, CK / CKMB / Troponin-T:459//,
   ALT / AST:115/93, Alk Phos / T Bili:123/0.3, Amylase / Lipase:35/26,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:796 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9 g/dL,
   LDH:243 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure: Etiology still unclrear, but acute eosinophilic
   pneumonia vs. drug pneumonities, vasculitis or Loefler syndrome.
   Patient on steroids for AEP and antibiotics (ceftriaxone, levofloxacin,
   gentamycin, amphotericin). Oxygen requirements have improved since
   patient was proned, and is now off paralytics, on sedation. Also high
   on the differential at this point, given ? Freidrich-Waterhouse
   syndrome and low cortisol levels, are Neisseria, fungal infection. In
   terms of autoimmune etiology thus far ANCA, [**Doctor First Name 1205**] and RF are negative.
   Pending labs include ACE, anti-GBM, Chlamydia, leptospira, mycoplasma,
   HIV viral load.
   -          decrease PEEP as tolerated
   -          f/u cultures and pending labs, f/u with OSH cultures
   -          Continue antibiotics including ampho for now.
   -          Continue steroids
   # Adrenal insufficienty: likely [**1-5**] adrenal infarct. Continue steroids
   as ordered and monitor for any petechial rashes, CNS involvement.
   -methylprednisolone
   - follow lactate
   .
   # Hematocrit drop - HCT 46.6 at OSH, 36 in ED, now 33. Most likely
   dilutional in the setting of negative hemolysis/DIC labs x2.
   -          guaiac stools
   -          f/u HCT
   -          check UA, hemolysis labs
   -          if continues would transfuse hct <25
   # Coagulopathy: Patient noted to have elevated coagulation factors, low
   albumin. Consider liver abnormality, even in setting of low LFTs. If
   coagulopathy, albumin does not resolve consider US RUQ.
   -vitamin K x 1 dose (yesterday)
   -F/u INR
   ..
   # FEN: IV fluids as needed with caution not to fluid overload the
   lungs, replete lytes as needed, TF started
   .
   # Access:  RIJ, 2 peripherals  art line
   .
   # PPx:  heparin sc, colace, senna, lactulose. Would start IV PPI if TF
   need to be held for pronation/procedure.
   .
   # Code:  Full Code
   .
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-13**] 10:00 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-14 11:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, doing well and continues to come down
   24 Hour Events:
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Caspofungin - [**2109-8-11**] 11:43 AM
   Ambisome - [**2109-8-13**] 03:59 PM
   Levofloxacin - [**2109-8-13**] 06:00 PM
   Ceftriaxone - [**2109-8-13**] 07:44 PM
   Gentamicin - [**2109-8-13**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 20 mg/hour
   Fentanyl (Concentrate) - 525 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2109-8-14**] 03:09 AM
   Fentanyl - [**2109-8-14**] 06:09 AM
   Midazolam (Versed) - [**2109-8-14**] 06:10 AM
   Heparin Sodium (Prophylaxis) - [**2109-8-14**] 08:00 AM
   Pantoprazole (Protonix) - [**2109-8-14**] 10:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-14**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 87 (70 - 103) bpm
   BP: 125/69(88) {97/56(70) - 133/75(95)} mmHg
   RR: 16 (14 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 14 (9 - 18)mmHg
   Total In:
                                                                  3,811 mL
                                                                  1,640 mL
   PO:
   TF:
                                                                  1,733 mL
                                                                    843 mL
   IVF:
                                                                  1,908 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  2,280 mL
   Urine:
                                                                  4,310 mL
                                                                  2,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.40/47/130/28/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   338 K/uL
   175 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   25 mg/dL
   111 mEq/L
   147 mEq/L
   31.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2109-8-12**]  06:33 PM
                             [**2109-8-12**]  09:34 PM
                             [**2109-8-12**]  10:29 PM
                             [**2109-8-13**]  03:46 AM
                             [**2109-8-13**]  12:58 PM
                             [**2109-8-13**]  06:39 PM
                             [**2109-8-14**]  03:28 AM
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
                             [**2109-8-14**]  09:57 AM
   WBC
   18.5
   16.2
   Hct
   29.8
   31.9
   Plt
   316
   338
   Cr
   0.7
   0.7
   TCO2
   30
   30
   30
   31
   31
   33
   32
   30
   Glucose
   168
   175
   Other labs: PT / PTT / INR:15.7/26.9/1.4, CK / CKMB / Troponin-T:459//,
   ALT / AST:115/93, Alk Phos / T Bili:123/0.3, Amylase / Lipase:35/26,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:796 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9
   g/dL, LDH:243 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   Plan:
   - Discontinue gentamycin
   - Continue ceftriaxone/levaquin/
   2) Hypotension: Improved
   3)
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-13**] 10:00 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2109-08-14 17:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No new events overnight.  While on rounds, had episode of desaturation
   and decreased delivery of tidal volume - taken off ventilator and
   ventilator adjusted - unclear what caused but appears to have been
   mechanical and related to ventilator malfunction and not the patient.
   Otherwise, not changes.
   24 Hour Events:
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2109-8-13**] 03:59 PM
   Levofloxacin - [**2109-8-13**] 06:00 PM
   Ceftriaxone - [**2109-8-13**] 07:44 PM
   Gentamicin - [**2109-8-13**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 18 mg/hour
   Fentanyl (Concentrate) - 425 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2109-8-14**] 03:09 AM
   Heparin Sodium (Prophylaxis) - [**2109-8-14**] 08:00 AM
   Pantoprazole (Protonix) - [**2109-8-14**] 10:00 AM
   Midazolam (Versed) - [**2109-8-14**] 03:00 PM
   Fentanyl - [**2109-8-14**] 03:00 PM
   Other medications:
   med list - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-14**] 05:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 70 (68 - 103) bpm
   BP: 138/79(99) {97/58(76) - 139/83(102)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 17 (9 - 18)mmHg
   Total In:
                                                                  3,811 mL
                                                                  2,540 mL
   PO:
   TF:
                                                                  1,733 mL
                                                                  1,349 mL
   IVF:
                                                                  1,908 mL
                                                                    921 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  3,400 mL
   Urine:
                                                                  4,310 mL
                                                                  3,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                   -860 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.42/46/130/28/5
   Ve: 7.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, Intubated/vented
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   338 K/uL
   175 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   25 mg/dL
   111 mEq/L
   147 mEq/L
   31.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2109-8-12**]  10:29 PM
                             [**2109-8-13**]  03:46 AM
                             [**2109-8-13**]  12:58 PM
                             [**2109-8-13**]  06:39 PM
                             [**2109-8-14**]  03:28 AM
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
                             [**2109-8-14**]  09:57 AM
                             [**2109-8-14**]  02:11 PM
                             [**2109-8-14**]  05:20 PM
   WBC
   18.5
   16.2
   Hct
   29.8
   31.9
   Plt
   316
   338
   Cr
   0.7
   0.7
   TCO2
   30
   31
   31
   33
   32
   30
   32
   31
   Glucose
   168
   175
   Other labs: PT / PTT / INR:15.7/26.9/1.4, CK / CKMB / Troponin-T:459//,
   ALT / AST:115/93, Alk Phos / T Bili:123/0.3, Amylase / Lipase:35/26,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:796 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9
   g/dL, LDH:243 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure: currently on PEEP of 10, Fio2 of .5
   - wean PEEP slowly to 5, and the will decrease Fio2
   - continue to lighten sedation if possible
   2) Pneumonia
   - continue with solumedrol for possible AEP (solumedrol 80 mg q6 hours)
   - continue ceftriaxone, levaquin, ambisone
   3) Adrenal insufficiency
   - continue steroids
   - endocrine consult pending
   - CT scan of abd when stable to evaluate the adrenals
   4) FEN: tube feeds
   5) Early mobilization
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-14**] 11:24 AM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2109-08-15 07:26:00 Physician Resident Progress Note
Chief Complaint: 18 year old without significant pmhx presents with
   likely eosinophilic pneumonia.
   24 Hour Events:
   patient yesterday morning had problems with the ventilator with low
   tidal volumes ( < 100) and high frequency RR. Pt was switched to CPAP
   for 30 minutes or so and then back to AC. remainder of the day was
   without much event. Pt successfully weanted down from fi02 and RR.
   patient with sick thyroid syndrome. Patient with 8 BMs yesterday.
   Nursing did excellent job weaning sedation yesterday evening. Patient
   is much more awake, alert this AM.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Gentamicin - [**2109-8-13**] 08:30 PM
   Ambisome - [**2109-8-14**] 04:00 PM
   Levofloxacin - [**2109-8-14**] 06:01 PM
   Ceftriaxone - [**2109-8-14**] 09:37 PM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-14**] 10:00 AM
   Midazolam (Versed) - [**2109-8-14**] 03:00 PM
   Fentanyl - [**2109-8-14**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-8-14**] 09:38 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies any pain
   Flowsheet Data as of  [**2109-8-15**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 56 (56 - 119) bpm
   BP: 131/73(97) {124/66(85) - 145/83(102)} mmHg
   RR: 0 (0 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
    CVP: 244 (13 - 257)mmHg
   Total In:
                                                                  3,691 mL
                                                                  1,136 mL
   PO:
   TF:
                                                                  1,879 mL
                                                                    584 mL
   IVF:
                                                                  1,542 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                  1,185 mL
   Urine:
                                                                  4,315 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -624 mL
                                                                    -49 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.40/43/99.[**Numeric Identifier 128**]/29/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   333 K/uL
   10.7 g/dL
   163 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.7 mEq/L
   28 mg/dL
   111 mEq/L
   148 mEq/L
   32.8 %
   18.1 K/uL
        [image002.jpg]
                             [**2109-8-13**]  06:39 PM
                             [**2109-8-14**]  03:28 AM
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
                             [**2109-8-14**]  09:57 AM
                             [**2109-8-14**]  02:11 PM
                             [**2109-8-14**]  05:20 PM
                             [**2109-8-15**]  01:14 AM
                             [**2109-8-15**]  05:39 AM
                             [**2109-8-15**]  06:11 AM
   WBC
   16.2
   18.1
   Hct
   31.9
   32.8
   Plt
   338
   333
   Cr
   0.7
   0.7
   TCO2
   31
   33
   32
   30
   32
   31
   29
   28
   Glucose
   175
   163
   Other labs: PT / PTT / INR:15.7/26.9/1.4, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is an 18 year-old male with no significant past medical history
   other than recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH
   for hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure: Etiology unclear, but suggestive of AEP versus
   bacterial pneumonia. Nothing has grown in cultures so far and we have
   been peeling antibiotics slowly. However, oxygen requirements have
   improved since steroids were started. Fungal studies still pending as
   well as some rheumatologic studies.
   - decrease PEEP as tolerated, now at TV 500, R 14, PEEP 8, FI02 of 40%
   - pleural fluid negative for O+P, nothing has grown out
   - blood culture no growth to date
   - urine cx negative
   - histo pending, leptospira pending, mycoplasma pending, ace pending,
   anti-gbm pending
   - Continue antibiotics for now
 on day 7 of antibiotics, will continue
   to treat for 10 day course ( [**8-18**] end).
   -  Continue steroids at current dose until extubated and planning
   discharge
   -  cont ambisome pending negative histo antigen
   -continue to wean sedation as nursing is already doing
   - pressure support trials today with goal to extubate tomorrow
    # Adrenal insufficienty: possibly secondary to adrenal infarct, wanted
   to rule out secondary adrenal failure secondary to infection (however
   do not think that eosinophilic pneumonia could explain this). Continue
   steroids as ordered and monitor for any petechial rashes, CNS
   involvement.
   -methylprednisolone as above
   - follow lactate
   - TSH 0.25 (low) T4 6.2 nl, T3 50 (low), calc TBG 1, uptake ratio 0.97,
   calc t4 index likely sick euthryroid syndrome
   - consider abdominal CT scan to look at adrenal glands better
   # Hematocrit drop
  HCT originally dropped, but has been stable for
   the last days. Iron studies suggest either bleeding or chronic
   diseases. It could also be dilutional. No need for hemolysis labs
   again.
   - f/u HCT, guaic stools
   - if continues would transfuse hct <25
   # FEN: tube feeds, increased free water boluses in the setting of
   hypenatreamia, repleted lytes
   # Access:  RIJ, 2 peripherals  art line
   .  # PPx:  heparin sc, colace, [**Last Name (LF) 3354**], [**First Name3 (LF) 178**] d/c lactulose in the setting
   of multiple bowel movements yesterday
   # Code:  Full Code
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-14**] 11:51 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-15 11:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, did well with decreasing sedation and Fio2 now .5 and PEEP
   now 5
   No new problems
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Gentamicin - [**2109-8-13**] 08:30 PM
   Ambisome - [**2109-8-14**] 04:00 PM
   Levofloxacin - [**2109-8-14**] 06:01 PM
   Ceftriaxone - [**2109-8-14**] 09:37 PM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2109-8-14**] 03:00 PM
   Fentanyl - [**2109-8-14**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-8-15**] 08:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-15**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 63 (56 - 119) bpm
   BP: 123/63(78) {123/63(78) - 137/77(91)} mmHg
   RR: 14 (0 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 13 (13 - 257)mmHg
   Total In:
                                                                  3,691 mL
                                                                  1,665 mL
   PO:
   TF:
                                                                  1,879 mL
                                                                    889 mL
   IVF:
                                                                  1,542 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                  2,165 mL
   Urine:
                                                                  4,315 mL
                                                                  2,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -624 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 93%
   ABG: 7.40/43/99.[**Numeric Identifier 128**]/29/0
   Ve: 8 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, intubated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   333 K/uL
   163 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.7 mEq/L
   28 mg/dL
   111 mEq/L
   148 mEq/L
   32.8 %
   18.1 K/uL
        [image002.jpg]
                             [**2109-8-13**]  06:39 PM
                             [**2109-8-14**]  03:28 AM
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
                             [**2109-8-14**]  09:57 AM
                             [**2109-8-14**]  02:11 PM
                             [**2109-8-14**]  05:20 PM
                             [**2109-8-15**]  01:14 AM
                             [**2109-8-15**]  05:39 AM
                             [**2109-8-15**]  06:11 AM
   WBC
   16.2
   18.1
   Hct
   31.9
   32.8
   Plt
   338
   333
   Cr
   0.7
   0.7
   TCO2
   31
   33
   32
   30
   32
   31
   29
   28
   Glucose
   175
   163
   Other labs: PT / PTT / INR:14.9/26.9/1.3, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:20.0 %, Mono:3.0 %,
   Eos:3.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure
   Plan:
   -          Change to pressure support
   -          Continue to wean sedation and change to intermittent
   -          Continue ceftriaxone, levaquin, ambisone
   -
   2)       Hypotension
   3)       Adrenal Insufficiency:
   Plan: When stable, will get abd. Ct scan
   4)
   5)
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-14**] 11:51 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes

2109-08-15 16:47:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, came down on PEEP and fio2 and continues to do well.
   No new complaints.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Gentamicin - [**2109-8-13**] 08:30 PM
   Ambisome - [**2109-8-14**] 04:00 PM
   Levofloxacin - [**2109-8-14**] 06:01 PM
   Ceftriaxone - [**2109-8-14**] 09:37 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-15**] 08:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged/unable
   Flowsheet Data as of  [**2109-8-15**] 04:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 75 (56 - 119) bpm
   BP: 129/69(90) {125/69(89) - 150/86(108)} mmHg
   RR: 11 (0 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 12 (12 - 257)mmHg
   Total In:
                                                                  3,691 mL
                                                                  2,512 mL
   PO:
   TF:
                                                                  1,879 mL
                                                                  1,335 mL
   IVF:
                                                                  1,542 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                  2,945 mL
   Urine:
                                                                  4,315 mL
                                                                  2,945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -624 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 405 (0 - 456) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.41/48/77.[**Numeric Identifier 96**]/29/4
   Ve: 6.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Intubated/sedated
   Labs / Radiology
   10.7 g/dL
   333 K/uL
   163 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.7 mEq/L
   28 mg/dL
   111 mEq/L
   148 mEq/L
   32.8 %
   18.1 K/uL
        [image002.jpg]
                             [**2109-8-14**]  03:28 AM
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
                             [**2109-8-14**]  09:57 AM
                             [**2109-8-14**]  02:11 PM
                             [**2109-8-14**]  05:20 PM
                             [**2109-8-15**]  01:14 AM
                             [**2109-8-15**]  05:39 AM
                             [**2109-8-15**]  06:11 AM
                             [**2109-8-15**]  11:10 AM
   WBC
   16.2
   18.1
   Hct
   31.9
   32.8
   Plt
   338
   333
   Cr
   0.7
   0.7
   TCO2
   33
   32
   30
   32
   31
   29
   28
   31
   Glucose
   175
   163
   Other labs: PT / PTT / INR:14.9/26.9/1.3, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:20.0 %, Mono:3.0 %,
   Eos:3.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   - Change to pressure support ventilation
   - wean sedation off
   2) Pneumonia: infectious vs. acute eosinophilic pneumonia
   - continue solumedrol
   -continue antibiotics (ceftriaxone, levaquin, ambisol)
   3) Hypotension - resolved and related to sepsis/adrenal insufficiency
   4) Adrenal Insufficiency:
   - continue intravenous steroids
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-5**]) - [**2109-8-15**] 12:19 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes (patient is critically ill)

2109-08-16 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-8-16**] 12:00 AM
   -vomiting yesterday, holding tube feeds
   -episodes of brady down to 40s ( BP, UOP stable) during sleep. EKG
   showed sinus bradycardia.
   -back to AC for short period of time overnight as breathing felt
   labored, but back on CPAP/PS this morning.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Gentamicin - [**2109-8-13**] 08:30 PM
   Ambisome - [**2109-8-15**] 04:00 PM
   Levofloxacin - [**2109-8-15**] 06:00 PM
   Ceftriaxone - [**2109-8-15**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-15**] 10:00 AM
   Fentanyl - [**2109-8-15**] 05:22 PM
   Heparin Sodium (Prophylaxis) - [**2109-8-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-16**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 40 (40 - 78) bpm
   BP: 120/65(84) {106/62(80) - 150/91(108)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 15 (8 - 338)mmHg
   Total In:
                                                                  3,054 mL
                                                                    103 mL
   PO:
   TF:
                                                                  1,366 mL
   IVF:
                                                                  1,138 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  4,945 mL
                                                                    975 mL
   Urine:
                                                                  4,945 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,891 mL
                                                                   -872 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (0 - 500) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.41/48/77.[**Numeric Identifier 96**]/29/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   358 K/uL
   11.0 g/dL
   117 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.8 mEq/L
   30 mg/dL
   110 mEq/L
   149 mEq/L
   31.8 %
   18.9 K/uL
        [image002.jpg]
                             [**2109-8-14**]  03:48 AM
                             [**2109-8-14**]  04:32 AM
                             [**2109-8-14**]  09:57 AM
                             [**2109-8-14**]  02:11 PM
                             [**2109-8-14**]  05:20 PM
                             [**2109-8-15**]  01:14 AM
                             [**2109-8-15**]  05:39 AM
                             [**2109-8-15**]  06:11 AM
                             [**2109-8-15**]  11:10 AM
                             [**2109-8-16**]  04:43 AM
   WBC
   18.1
   18.9
   Hct
   32.8
   31.8
   Plt
   333
   358
   Cr
   0.7
   0.7
   TCO2
   33
   32
   30
   32
   31
   29
   28
   31
   Glucose
   163
   117
   Other labs: PT / PTT / INR:16.1/28.9/1.4, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:20.0 %, Mono:3.0 %,
   Eos:3.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   18 year-old male with no significant past medical history other than
   recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH for
   hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure: Current differential includes AEP vs
   bacterial/viral  pneumonia. Nothing has grown in cultures so far with
   several labs still pending. Antibiotics have been d/c
s which cover
   etiologies we do not feel are likely sources at this point. Oxygen
   requirements have continued to improve and extubation may be possible
   today. Fungal studies still pending as well as some rheumatologic
   studies.
   - pleural fluid negative for O+P, nothing has grown out
   - blood culture no growth to date
   - urine cx negative
   - histo pending, leptospira pending, mycoplasma pending, ace pending,
   anti-gbm pending
   - Continue antibiotics for now
 on day 7 of antibiotics, will continue
   to treat for 10 day course ( [**8-18**] end).
   -  Continue steroids at current dose until extubated and planning
   discharge
   -  cont ambisome pending negative histo antigen
   -continue to wean sedation as nursing is already doing
   - pressure support trials today with goal to extubate tomorrow
    # Adrenal insufficienty: possibly secondary to adrenal infarct, wanted
   to rule out secondary adrenal failure secondary to infection (however
   do not think that eosinophilic pneumonia could explain this). Continue
   steroids as ordered and monitor for any petechial rashes, CNS
   involvement.
   -methylprednisolone as above
   - follow lactate
   - TSH 0.25 (low) T4 6.2 nl, T3 50 (low), calc TBG 1, uptake ratio 0.97,
   calc t4 index likely sick euthryroid syndrome
   - consider abdominal CT scan to look at adrenal glands better
   # Hematocrit drop
  HCT originally dropped, but has been stable for
   the last days. Iron studies suggest either bleeding or chronic
   diseases. It could also be dilutional. No need for hemolysis labs
   again.
   - f/u HCT, guaic stools
   - if continues would transfuse hct <25
   # FEN: tube feeds, increased free water boluses in the setting of
   hypenatreamia, repleted lytes
   # Access:  RIJ, 2 peripherals  art line
   .  # PPx:  heparin sc, colace, [**Last Name (LF) 3354**], [**First Name3 (LF) 178**] d/c lactulose in the setting
   of multiple bowel movements yesterday
   # Code:  Full Code
   # Dispo:  ICU until extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-16 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, did well on the ventilator; did have some episodes of
   bradycardia.
   - this morning was extubated
   24 Hour Events:
 EKG - At [**2109-8-16**] 12:00 AM
   History obtained from Patient
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Gentamicin - [**2109-8-13**] 08:30 PM
   Ambisome - [**2109-8-15**] 04:00 PM
   Levofloxacin - [**2109-8-15**] 06:00 PM
   Ceftriaxone - [**2109-8-15**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2109-8-15**] 05:22 PM
   Heparin Sodium (Prophylaxis) - [**2109-8-15**] 10:00 PM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-16**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 60 (40 - 78) bpm
   BP: 147/82(104) {106/62(80) - 147/91(104)} mmHg
   RR: 15 (6 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 10 (8 - 338)mmHg
   Total In:
                                                                  3,054 mL
                                                                    518 mL
   PO:
   TF:
                                                                  1,366 mL
   IVF:
                                                                  1,138 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,945 mL
                                                                  2,375 mL
   Urine:
                                                                  4,945 mL
                                                                  2,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,891 mL
                                                                 -1,857 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 10 (10 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 9
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 93%
   ABG: 7.52/35/92.[**Numeric Identifier 1176**]/29/5
   Ve: 8 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   358 K/uL
   130
   0.7 mg/dL
   29 mEq/L
   2.8 mEq/L
   30 mg/dL
   109 mEq/L
   149 mEq/L
   31.8 %
   18.9 K/uL
        [image002.jpg]
                             [**2109-8-14**]  02:11 PM
                             [**2109-8-14**]  05:20 PM
                             [**2109-8-15**]  01:14 AM
                             [**2109-8-15**]  05:39 AM
                             [**2109-8-15**]  06:11 AM
                             [**2109-8-15**]  11:10 AM
                             [**2109-8-16**]  01:00 AM
                             [**2109-8-16**]  04:43 AM
                             [**2109-8-16**]  06:00 AM
                             [**2109-8-16**]  06:59 AM
   WBC
   18.1
   18.9
   Hct
   32.8
   31.8
   Plt
   333
   358
   Cr
   0.7
   0.7
   TCO2
   32
   31
   29
   28
   31
   30
   Glucose
   163
   162
   117
   130
   Other labs: PT / PTT / INR:16.1/28.9/1.4, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:20.0 %, Mono:3.0 %,
   Eos:3.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure:
   -now extubated and doing well
   -AEP vs. infectious pneumonia
   -Discontinue ambisome for now as seeing renal effects
 will check
   histo results today
   -will complete 10 day course of ceftriazone/levaquin
   2)       Acute Eosinophilic Pneumonia
   -          change to solumedrol 60 mg IV q 6 hours
   3)       Adrenal Insufficiency:
   - CT to evaluate the adrenal gland
   4)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Arterial Line - [**2109-8-11**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2109-08-17 07:22:00 Physician Resident Progress Note
Chief Complaint: Fever, cough for 2 days
   24 Hour Events:
 ARTERIAL LINE - STOP [**2109-8-16**] 12:06 PM
   -Successfully extubated yesterday AM. Doing excellent on shovel mask.
   -Has been able to ambulate to chair.
   -CT chest/abd today am to work-up adrenal insufficiency. monitoring K,
   Na levels closely overnight. Hypokalemia has been an issue for the last
   couple of days and he has needed very aggressive repletion most likely
   due to ambisome. It was d/c's today however its effect will be around
   for several more days so lytes need to be monitored carefully.
   -the patient has been autodiuresing significantly over last couple of
   days (300-400cc/hr). This is likely [**1-5**] being fluid overloaded since
   admission however, he is also on corticosteroids which may be causing
   this. Also to consider is DI although on Urine labs pt is concentrating
   his urine.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2109-8-15**] 04:00 PM
   Levofloxacin - [**2109-8-16**] 06:01 PM
   Ceftriaxone - [**2109-8-16**] 07:39 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-17**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 53 (44 - 72) bpm
   BP: 123/52(69) {95/47(65) - 136/94(84)} mmHg
   RR: 21 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
    CVP: 10 (10 - 16)mmHg
   Total In:
                                                                  2,036 mL
                                                                    229 mL
   PO:
                                                                    540 mL
   TF:
   IVF:
                                                                  1,376 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                 31,080 mL
                                                                  1,740 mL
   Urine:
                                                                 31,080 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                -29,044 mL
                                                                 -1,511 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 10 (10 - 10) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: ///32/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Pateient can stand with help
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   299 K/uL
   10.7 g/dL
   129 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.7 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   29.8 %
   17.8 K/uL
        [image002.jpg]
                             [**2109-8-15**]  05:39 AM
                             [**2109-8-15**]  06:11 AM
                             [**2109-8-15**]  11:10 AM
                             [**2109-8-16**]  01:00 AM
                             [**2109-8-16**]  04:43 AM
                             [**2109-8-16**]  06:00 AM
                             [**2109-8-16**]  06:59 AM
                             [**2109-8-16**]  12:00 PM
                             [**2109-8-16**]  08:12 PM
                             [**2109-8-17**]  03:42 AM
   WBC
   18.1
   18.9
   17.8
   Hct
   32.8
   31.8
   29.8
   Plt
   333
   358
   299
   Cr
   0.7
   0.7
   0.5
   TCO2
   28
   31
   30
   Glucose
   163
   162
   117
   130
   135
   119
   129
   Other labs: PT / PTT / INR:16.8/37.4/1.5, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:20.0 %, Mono:3.0 %,
   Eos:3.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   18 year-old male with no significant past medical history other than
   recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH for
   hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure: Resolved. Now on 2L NC breathing comfortably.
   Most likely it was AEP versus atypical PNA (viral, fungal or atypical
   bacteria). Most antibiotics have been stopped. Histoplasma still
   pending.
   - pleural fluid negative for O+P, nothing has grown out
   - blood culture NGTD
   - histo pending, will contact lab today
   - Continue [**Name (NI) **]/Ceftri ([**8-14**])
   -  Continue steroids; switch to 60mg PO QD
   - Chest CT today
    # Adrenal insufficienty: Posible adrenal infarct in the setting of
   hypotension and infection. However, pt now behaving as
   hyperaldosteronism, which may be explained by the excess ammount of IV
   steroids.
   -CT abdomen today
   -monitor Na, K
   -f/u endo recs
   -methylprednisolone decreased today and may continue to [**Doctor Last Name 5353**] down
   tomorrow.
   # Hematocrit drop
  stable
   - f/u HCT
   # FEN: normal diet, repleted lytes.
   # Access:  RIJ
   .  # PPx:  heparin sc, colace, senna being held [**1-5**] diarrhea
   # Code:  Full Code
   # Dispo:  ICU until tomorrow then ok to transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM NOTE
   I reviewed the history and relevant labs on this patient and also
   examined him.  I was physically present for the key portions of the
   services provided.  I agree with the note above, including the
   assessment and plan. I would add and emphasize the following:
   Mr [**Known lastname 5102**] has continued to fabulously well since the dark days of last
   weekend. Extubated yesterday he continues to feel  increasingly well
   and is eating and today has no complaints, being eager to start PT.
   Meds: Pred 60mg 4x/day, Ceftriax, [**Known lastname **] 750 qd, among others
   On exam: his saturation is 96% on 2L, with other VSS.  Lungs clear to
   auscultation;  Cor- RRR;   Ext- no edema
    Neuro
 alert and cooperative
   Lab:  Ca=7.7 but alb = 2.5  CT of the chest today is pending
   Imp: S/P resp failure due to ARDS from pneumonitis that is either an
   unclear infection or acute eosinophilic pneumonitis.  His seeming
   response to high dose steroids was very impressive, according to his
   MICU team.
            His polyuria could be mobilization of fluid, esp with his high
   dose steoids.  DI less likely
   Plan:
   1.       Decrease Pred to 60mg daily
   2.       Await chest CT
   3.       Follow u.o. in MICU for another 24 hr
   4.       Physical Therapy
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], [**MD Number(1) 5352**]
   Total time spent: 25 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2109-8-17**] 18:46 ------

2109-08-18 07:43:00 Physician Resident Progress Note
Chief Complaint: 18 year old without pmhx presents with acute
   respiratoy distress likely acute eosinophilic pneumonia, now s/p
   intubation and extubation, doing well.
   24 Hour Events:
   yesterday, contiued to replete K aggressively with large autodiuresis
   that was occurring. large urine output yesterday.  CT scan yesterday
   with improvement in lungs. ct done without contrast so unable to tell
   if adrenal bleed however adrenals look normal in size and shape.
   changed prednisone to 60 PO daily from 60 IV q 6 hours.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-8-16**] 07:39 PM
   Ambisome - [**2109-8-17**] 08:00 PM
   Levofloxacin - [**2109-8-17**] 10:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-17**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2109-8-17**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2109-8-18**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 73 (45 - 75) bpm
   BP: 128/59(74) {107/40(55) - 141/72(84)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,230 mL
                                                                    226 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    830 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  6,070 mL
                                                                  2,060 mL
   Urine:
                                                                  6,070 mL
                                                                  2,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,840 mL
                                                                 -1,834 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: decreased breath sounds at bases,
   fine crackels at bases )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   380 K/uL
   12.4 g/dL
   87 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   140 mEq/L
   33.9 %
   16.4 K/uL
        [image002.jpg]
                             [**2109-8-15**]  11:10 AM
                             [**2109-8-16**]  01:00 AM
                             [**2109-8-16**]  04:43 AM
                             [**2109-8-16**]  06:00 AM
                             [**2109-8-16**]  06:59 AM
                             [**2109-8-16**]  12:00 PM
                             [**2109-8-16**]  08:12 PM
                             [**2109-8-17**]  03:42 AM
                             [**2109-8-17**]  11:50 AM
                             [**2109-8-18**]  01:35 AM
   WBC
   18.9
   17.8
   16.4
   Hct
   31.8
   29.8
   33.9
   Plt
   358
   299
   380
   Cr
   0.7
   0.5
   0.7
   0.6
   TCO2
   31
   30
   Glucose
   162
   117
   130
   135
   119
   129
   159
   87
   Other labs: PT / PTT / INR:17.4/29.4/1.6, CK / CKMB / Troponin-T:459//,
   ALT / AST:99/50, Alk Phos / T Bili:112/0.3, Amylase / Lipase:67/75,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:20.0 %, Mono:3.0 %,
   Eos:3.0 %, Fibrinogen:796 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9
   g/dL, LDH:261 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   18 year-old male with no significant past medical history other than
   recent travel to [**Country 5083**] who was transferred to [**Hospital1 **] from OSH for
   hypoxia in the setting of cough,SOB and a CXR showing bilat diffuse
   patchy infiltrates.
   # Respiratory failure: Resolved. Now on 2L NC breathing comfortably.
   Most likely it was AEP versus atypical PNA (viral, fungal or atypical
   bacteria). Most antibiotics have been stopped. Histoplasma still
   pending.
   - pleural fluid negative for O+P, nothing has grown out
   - blood culture NGTD
   - histo pending, will contact lab today
   - Continue [**Name (NI) **]/Ceftri ([**9-13**]) will d/c for tomorrow
   - changed steroids to 60 mg PO daily (previously on 60 IV q 6 hours)
   - CT torso- lungs improved from previous, adrenals without evidence of
   abnormalities (however exam limited secondary to lack of contrast)
   # Polyuria
   - not due to hyperglycemia
   -likely secondary to increased fluids in the setting of resuscitation,
   still with pleural effusions
   - check [**Hospital1 **] lytes
   - keep central line in until not needing so much K repletion
    # Adrenal insufficienty: Posible adrenal infarct in the setting of
   hypotension and infection however no evidence of hyperkalemia or
   hyponatremia. However, pt now behaving as hyperaldosteronism, which may
   be explained by the excess ammount of IV steroids.
   -CT abdomen as above
 no evidence of infarct, normal in size, however
   limited secondary to lack of contrast
   -monitor Na, K
   -endocrine reccomending
 cont to treat eosinophilic pneumonia with
   steroids as we are, when pulmonary wants to taper would eventually go
   to 5-7.5 for weeks to month and then re-check [**Last Name (un) 45**] stim test as
   outpatient
   - for now
   # Hematocrit drop
  stable
   - f/u HCT
    # FEN: normal diet, repleted lytes prn , has required a large amount
   of K repletion yesterday.
    # Access:  RIJ
    # PPx:  heparin sc, bowel regimen held in the setting of diarrhea
    # Code:  Full Code
    # Dispo: consider floor transfer today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-8-9**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I reviewed the patient
s history and relevant labs reviewed and also
   examined him.  I was physically present with the MICU team for the key
   portions of the services provided.  I agree with the above note,
   including its assessment and plan.  I would emphasize the following:
   Overnight the pt has done well, without complaints except weakness. KCl
   repleted and prednisone decreased to 60mg daily
   On exam:  Sat = 95% on ra!  Afeb. Other VSS.  I/0 = 5 L neg overnite.
   Lungs clear.  U.O. still > 300 cc/hr
   Lab: Lytes normal, Leukocytosis decreasing.  CT chest shows just a
   scant degree of ground glass infiltrates, very much improved from last
   week.  Adrenals look normal  Small bilat pleural effusions persist
   Imp: Resp failure due to diffuse pulm infiltrates and brochoalveolar
   lavage eosinophilia, suggestive of AEP, now dramatically better with
   high dose steroids and pt essentially back to normal and CT nearly so!!
   I suspect his oliguria is due to reclaiming of third spaced fluid
   Plan:
   1.       To floor today with central line (till KCL requirement
   decreases)
   2.       Follow lytes [**Hospital1 **] till U.O. decreases
   3.       Wean Pred to 40mg daily, given his nearly normal lungs on CT
   4.       Have pulmonary consult team follow on the wards.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], [**MD Number(1) 5352**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2109-8-18**] 16:17 ------